US05328922
5-Amino-2-dimethylaminopyridine (D35)
2-Dimethylamino-5-nitropyridine (D34) (1.64 g, 9.8 mM) was stirred with 10% palladium on charcoal (0.16 g) in ethanol (200 ml) under 1 atmos. of hydrogen. After 6 h the catalyst was filtered off onto Kieselguhr and the filtrate was evaporated. The residue was dissolved in diethyl ether, filtered again, and chromatographed on silica gel (50 g) using ether as eluant. The eluted product was purified further by extraction with petrol (bp 60°-80° C.) to give the title compound as a reddish oil (0.66 g; 49%).

reactant | 2-Dimethylamino-5-nitropyridine | 9.8 mM, 1.64 g | CN(C1=NC=C(C=C1)[N+](=O)[O-])C | C7H9N3O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.16 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-Amino-2-dimethylaminopyridine | 0.66 g, 49% | NC=1C=CC(=NC1)N(C)C | C7H11N3
